resistor_cube - fault test
V1 n7 0 DC 12
R1 0 n1 0.986347
R2 0 n2 0.107212
R3 0 n4 1.018855
R4 n1 n3 1.006619
R5 n1 n5 0.988927
R6 n2 n3 0.989954
R7 n2 n6 1.016417
R8 n3 n7 49.699855
R9 n4 n5 0.998449
R10 n4 n6 0.982005
R11 n5 n7 1.000184
R12 n6 n7 1.005192
.op
.control
run
print v(n1) v(n2) v(n3) v(n4) v(n5) v(n6) v(n7)
print @r1[i] @r2[i] @r3[i] @r4[i] @r5[i] @r6[i] @r7[i] @r8[i] @r9[i] @r10[i] @r11[i] @r12[i]
.endc
.end
